US09062070B2
Step A: Benzyl 4-(2-hydroxy-2-((S)-3-methyl-1-oxoisochroman-6-yl)ethyl)-3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate
To a solution of racemic benzyl 3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate (1.0 g, 3.8 mmol) (prepared as described in US Patent Application Publication No. US2007/0088039A1, Example 10) in EtOH (13 mL) was added (3S)-3-methyl-6-(oxiran-2-yl)isochroman-1-one (773 mg, 3.80 mmol), the resulting mixture was heated at 80° C. for 16 h, the reaction mixture was concentrated to dryness and purified on silica gel to afford the title compound: LC/MS: m/e 469.2 (M+H)+.

reactant | racemic benzyl 3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate | 3.8 mmol, 1.0 g | OCC1(CN(CCN1)C(=O)OCC1=CC=CC=C1)C | C14H20N2O3
reactant | (3S)-3-methyl-6-(oxiran-2-yl)isochroman-1-one | 3.80 mmol, 773 mg | C[C@@H]1OC(C2=CC=C(C=C2C1)C1OC1)=O | C12H12O3
solvent | EtOH | 13 mL | CCO | C2H6O
product | Benzyl 4-(2-hydroxy-2-((S)-3-methyl-1-oxoisochroman-6-yl)ethyl)-3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate | OC(CN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)(C)CO)C=1C=C2C[C@@H](OC(C2=CC1)=O)C | C26H32N2O6
